US07687490B2
b) N-Cyclohexyl-N-ethylaminocarbonyloxymethyl (1R,5S,6S)-6-((1R)-1-hydroxyethyl)-2-[[(Z)-2-(4-hydroxymethyl-thiazol-5-yl)ethen-1-yl]thio]-1-methyl-1-carbapen-2-em-3-carboxylate
In the same manner as in step b) in Example 125, 285 mg of the title compound was prepared from 190 mg of chloromethyl N-cyclohexyl-N-ethylcarbamate and 300 mg of sodium (1R,5S,6S)-6-((1R)-1-hydroxyethyl)-2-[[(Z)-2-(4-hydroxymethyl-thiazol-5-yl)ethen-1-yl]thio]-1-methyl-1-carbapen-2-em-3-carboxylate.

reactant | chloromethyl N-cyclohexyl-N-ethylcarbamate | 190 mg | C1(CCCCC1)N(C(OCCl)=O)CC | C10H18ClNO2
reactant | sodium (1R,5S,6S)-6-((1R)-1-hydroxyethyl)-2-[[(Z)-2-(4-hydroxymethyl-thiazol-5-yl)ethen-1-yl]thio]-1-methyl-1-carbapen-2-em-3-carboxylate | 300 mg | O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)S\C=C/C2=C(N=CS2)CO)C(=O)[O-])C1=O.[Na+]
product | N-Cyclohexyl-N-ethylaminocarbonyloxymethyl (1R,5S,6S)-6-((1R)-1-hydroxyethyl)-2-[[(Z)-2-(4-hydroxymethyl-thiazol-5-yl)ethen-1-yl]thio]-1-methyl-1-carbapen-2-em-3-carboxylate | 285 mg | O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)S\C=C/C2=C(N=CS2)CO)C(=O)OCOC(=O)N(CC)C2CCCCC2)C1=O | C26H35N3O7S2
